US05302720
A mixture of N-(3-methyl-2-biphenylyl)thiourea (11.3 g), lead acetate trihydrate (17.7 g), potassium hydroxide (26.1 g) and water (50 ml) was heated at 90°-95° C. for 30 minutes to give 3-methyl-2-biphenylylcyanamide as a yellow oil.

reactant | N-(3-methyl-2-biphenylyl)thiourea | 11.3 g | CC=1C(=C(C=CC1)C1=CC=CC=C1)NC(=S)N | C14H14N2S
reactant | lead acetate trihydrate | 17.7 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | potassium hydroxide | 26.1 g | [OH-].[K+]
solvent | water | 50 ml | O | H2O
product | 3-methyl-2-biphenylylcyanamide | CC=1C(=C(C=CC1)C1=CC=CC=C1)NC#N | C14H12N2
